US06245761B1
Preparation of 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[[N,N-bis(3-dimethylaminopropyl)amino]carbonyl]-1H-indole (Example 58)
Under an argon atmosphere 2-[(4-chlorophenoxy)methyl]-1-methyl-3-carboxy-1H-indole (0.100 g, 0.317 mmol) was dissolved in 3.2 ml of N,N-dimethylformamide. To this solution were added N,N-bis(3-dimethylaminopropyl)amine (0.074 ml, 0.0623 g, 0.332 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.091 g, 0.475 mmol), and hydroxybenztriazole (0.0642 g, 0.475 mmol). The resulting mixture was then heated for 6 hours and then stirred at room temperature overnight. The progress of the reaction was monitored by thin layer chromatography.

reactant | 2-[(4-chlorophenoxy)methyl]-1-methyl-3-carboxy-1H-indole | 0.317 mmol, 0.100 g | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2C(=O)O)C)C=C1 | C17H14ClNO3
reactant | N,N-bis(3-dimethylaminopropyl)amine | 0.332 mmol, 0.074 ml, 0.0623 g | CN(CCCNCCCN(C)C)C | C10H25N3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.475 mmol, 0.091 g | Cl.CN(CCCN=C=NCC)C
reactant | hydroxybenztriazole | 0.475 mmol, 0.0642 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | N,N-dimethylformamide | 3.2 ml | CN(C=O)C | C3H7NO
product | 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[[N,N-bis(3-dimethylaminopropyl)amino]carbonyl]-1H-indole | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2C(=O)N(CCCN(C)C)CCCN(C)C)C)C=C1 | C27H37ClN4O2
